US05622976
A solution of di-tert-butyl-dicarbonate (1.70 g) in methylene chloride (5 ml) was added dropwise to a mixture of 4-(2-hydroxyethyl)piperidine (1.0 g) and triethylamine (1.08 ml) in methylene chloride (10 ml) at 5° C. After stirring at ambient temperature for 1 hour, the reaction mixture was poured into water. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica eluting with 3% methanol in chloroform and the fractions containing the object product were collected and evaporated to give 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperidine (1.80 g) as an oil.

reactant | di-tert-butyl-dicarbonate | 1.70 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(2-hydroxyethyl)piperidine | 1.0 g | OCCC1CCNCC1 | C7H15NO
reactant | triethylamine | 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperidine | 1.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
